* c:\users\sabarishmohan\esim-workspace\ic100117_test\ic100117_test.cir

.include ic100117.sub
x1 net-_u1-pad9_ net-_u1-pad6_ net-_u1-pad7_ net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ net-_u4-pad6_ net-_u4-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ net-_u2-pad10_ net-_u1-pad10_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad6_ net-_u2-pad7_ net-_u1-pad8_ ic100117
* u1  da0 db0 dc0 dd0 e0 net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ adc_bridge_5
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ adc_bridge_5
* u3  net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ adc_bridge_5
* u4  net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ q0 q0_bar q1 q1_bar q2 q2_bar dac_bridge_6
v5  dc0 gnd pulse(5 0 0 0 0 5 10)
v7  db0 gnd pulse(0 5 0 0 0 5 10)
v1  e0 gnd pulse(0 5 0 0 0 5 10)
v3  dd0 gnd pulse(5 0 0 0 0 5 10)
v9  da0 gnd pulse(0 5 0 0 0 5 10)
v6  gnd net-_u2-pad3_ pulse(5 0 0 0 0 5 10)
v8  gnd net-_u2-pad4_ pulse(0 5 0 0 0 5 10)
v2  gnd net-_u2-pad1_ pulse(0 5 0 0 0 5 10)
v4  gnd net-_u2-pad2_ pulse(5 0 0 0 0 5 10)
v10  gnd net-_u2-pad5_ pulse(0 5 0 0 0 5 10)
v13  gnd net-_u3-pad3_ pulse(5 0 0 0 0 5 10)
v14  gnd net-_u3-pad2_ pulse(0 5 0 0 0 5 10)
v11  gnd net-_u3-pad5_ pulse(5 0 0 0 0 5 10)
v12  gnd net-_u3-pad4_ pulse(0 5 0 0 0 5 10)
v15  gnd net-_u3-pad1_ pulse(5 0 0 0 0 5 10)
* u5  q0 plot_v1
* u6  q0_bar plot_v1
* u7  q1 plot_v1
* u8  q1_bar plot_v1
* u9  q2 plot_v1
* u10  q2_bar plot_v1
a1 [da0 db0 dc0 dd0 e0 ] [net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ ] u1
a2 [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ ] [net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ ] u2
a3 [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ ] [net-_u3-pad6_ net-_u3-pad7_ net-_u3-pad8_ net-_u3-pad9_ net-_u3-pad10_ ] u3
a4 [net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ ] [q0 q0_bar q1 q1_bar q2 q2_bar ] u4
* Schematic Name:                             adc_bridge_5, NgSpice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_5, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_5, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_6, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 200e-03 20e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(q0)
plot v(q0_bar)
plot v(q1)
plot v(q1_bar)
plot v(q2)
plot v(q2_bar)
.endc
.end
